US08278441B2
tert-Butyl 2-(allyloxy)acetate
Tetrabutylammonium hydrogenosulfate (470 g, 1.40 mol) is added to a solution of sodium hydroxide (6.6 Kg, 165 mol) in water (14 L) and toluene (14 L) at 20° C. Allyl alcohol (801.5 g, 13.8 mol) is added and the mixture is stirred at 20° C. for 1 h. The mixture is cooled to 5° C., and tert-butyl 2-bromoacetate (4 Kg, 20.5 mol) is added slowly maintaining the internal temperature below 15° C. The reaction mixture is stirred at room temperature for 16 h. The mixture is diluted with water (12 L) and hexanes (12 L) and the organic phase is separated. The aqueous phase is extracted with MTBE (5 L). The combined organic phase is dried over magnesium sulfate, filtered, and concentrated to afford the title compound as colorless oil (2.6 Kg, 100%). ES/MS m/e: 173 (M+1).

reactant | Tetrabutylammonium | 1.40 mol, 470 g | C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium hydroxide | 165 mol, 6.6 Kg | [OH-].[Na+]
reactant | Allyl alcohol | 13.8 mol, 801.5 g | C(C=C)O | C3H6O
reactant | tert-butyl 2-bromoacetate | 20.5 mol, 4 Kg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | water | 14 L | O | H2O
solvent | toluene | 14 L | C1(=CC=CC=C1)C | C7H8
solvent | water | 12 L | O | H2O
product | tert-Butyl 2-(allyloxy)acetate | 2.6 Kg, 100% | C(C=C)OCC(=O)OC(C)(C)C | C9H16O3
